US07449475B2
tert-Butyl(3S)-3-(benzoyloxy)pyrrolidine-1-carboxylate
To a solution of (3S)-pyrrolidin-3-ol (0.87 g, 10.0 mmol) in THF (20 mL) was slowly added a solution of di-tert-butyl dicarbonate (2.18 g, 10.0 mmol) in THF (10 mL) at room temperature. After addition was completed, the reaction mixture was stirred at room temperature overnight. The volatiles were removed in vacuo and the residue was purified by silica gel flash chromatography (0-2.5% methanol in dichloromethane) to give intermediate tert-Butyl(3S)-3-hydroxypyrrolidine-1-carboxylate. To a solution of tert-butyl (3S)-3-hydroxypyrrolidine-1-carboxylate (900 mg, 4.8 mmol) in CH2Cl2 (6 mL) was added Et3N (699 mg, 6.91 mmol) followed by benzoyl chloride (809 mg, 5.76 mmol) at 0° C. After addition was completed, the reaction mixture was stirred at room temperature overnight. The reaction mixture was partitioned between CH2Cl2 and H2O. The organic layer was successively washed with aqueous NaHCO3 and water, dried over Na2SO4, filtered and concentrated. The residue was purified by silica gel flash chromatography (0-1% methanol in dichloromethane) to give the subtitled compound (642 mg).

reactant | tert-butyl (3S)-3-hydroxypyrrolidine-1-carboxylate | 4.8 mmol, 900 mg | O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | Et3N | 6.91 mmol, 699 mg | CCN(CC)CC | C6H15N
reactant | benzoyl chloride | 5.76 mmol, 809 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl(3S)-3-(benzoyloxy)pyrrolidine-1-carboxylate | 642 mg | C(C1=CC=CC=C1)(=O)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C16H21NO4
